US09126976B2
1,2-phenylenediamine (300 mg, 2.77 mmol) was dissolved in 2.7 mL MeCN. Hunig's Base (485 μl, 2.77 mmol) was added, followed by methyl 3-(2-bromoacetyl)benzoate (713 mg, 2.77 mmol). The resulting reaction mixture was stirred at room temperature for 30 minutes. Acetic acid (476 μl, 8.32 mmol) and sodium triacetoxyborohydride (1176 mg, 5.55 mmol) were added. The mixture was stirred at r.t. overnight. TLC indicated that the starting material was consumed, and the reaction was quenched with saturated ammonium chloride and extracted into DCM. The organic phase was dried with MgSO4, filtered, concentrated, and purified on a 100 g silica column with 0-30% EtOAc/hexanes gradient to give methyl 3-(1,2,3,4-tetrahydroquinoxalin-2-yl)benzoate.

reactant | 1,2-phenylenediamine | 2.77 mmol, 300 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | Hunig's Base | 2.77 mmol, 485 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 3-(2-bromoacetyl)benzoate | 2.77 mmol, 713 mg | BrCC(=O)C=1C=C(C(=O)OC)C=CC1 | C10H9BrO3
reactant | Acetic acid | 8.32 mmol, 476 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.55 mmol, 1176 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeCN | 2.7 mL | CC#N | C2H3N
product | methyl 3-(1,2,3,4-tetrahydroquinoxalin-2-yl)benzoate | N1C(CNC2=CC=CC=C12)C=1C=C(C(=O)OC)C=CC1 | C16H16N2O2
